US04190666
A mixture of 4,5-bis(4-hydroxyphenyl)-2-(1,1,2,2-tetrafluoroethylsulfonyl)imidazole (0.1 mole), acetic anhydride (0.2 mole), and pyridine (500 ml.) is heated for two hrs. on the steam bath. On pouring the mixture into water there is obtained as product 4,5-bis(4-acetoxyphenyl)-2-(1,1,2,2-tetrafluoroethylsulfonyl)imidazole.

reactant | 4,5-bis(4-hydroxyphenyl)-2-(1,1,2,2-tetrafluoroethylsulfonyl)imidazole | 0.1 mole | OC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)O)S(=O)(=O)C(C(F)F)(F)F | C17H12F4N2O4S
reactant | acetic anhydride | 0.2 mole | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
reactant | water | O | H2O
product | 4,5-bis(4-acetoxyphenyl)-2-(1,1,2,2-tetrafluoroethylsulfonyl)imidazole | C(C)(=O)OC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC(C)=O)S(=O)(=O)C(C(F)F)(F)F | C21H16F4N2O6S
